US04353901
A solution of 3.5 g of 9-[2-(1,4-benzodioxan-2-yl)ethyl]-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride salt in water (50 ml) was adjusted to pH 12 with ammonium hydroxide solution and extracted with methylene chloride. The methylene chloride was evaporated to afford 3 g of 9-[2-(1,4-benzodioxan-2-yl)ethyl]-1-oxa-4,9-diazaspiro-[5.5]undecan-3-one as the free base, mp 139°-140° C.

reactant | 9-[2-(1,4-benzodioxan-2-yl)ethyl]-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride salt | 3.5 g | Cl.O1C(COC2=C1C=CC=C2)CCN2CCC1(CNC(CO1)=O)CC2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 50 ml | O | H2O
product | 9-[2-(1,4-benzodioxan-2-yl)ethyl]-1-oxa-4,9-diazaspiro-[5.5]undecan-3-one | 3 g | O1C(COC2=C1C=CC=C2)CCN2CCC1(CNC(CO1)=O)CC2 | C18H24N2O4
